US04452808
4-Aminoethyl-2(3H)-indolone (10 g) is reacted with two mole equivalents of allyl bromide and 4 equivalents of triethylamine in acetonitrile with mild heat for several hours. The reaction mixture is evaporated. The residue is suspended in water. The mixture is extracted with ethyl acetate. The extracts are washed, dried and evaporated to give 4-di-allylaminoethyl-2(3H)-indolone. This material (1 g) is dissolved in ether-ethanol and treated with methane sulfonic acid to give the methane sulfonate salt. Using benzyl bromide gives 4-dibenzylaminoethyl-2(3H)-indolone.

reactant | 4-Aminoethyl-2(3H)-indolone | 10 g | NCCC1=C2CC(NC2=CC=C1)=O | C10H12N2O
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | triethylamine | 4 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | C(C)#N | C2H3N
product | 4-di-allylaminoethyl-2(3H)-indolone | C(C=C)N(CC=C)CCC1=C2CC(NC2=CC=C1)=O | C16H20N2O
